* E:\engg\7th sem\project\cmos.asc
V2 N001 0 1
M1 N001 N003 out N002 PMOS
M2 out N003 0 N004 NMOS
V1 N003 0 PULSE(0 1 0 0 0 20m 40m 5)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ADMIN\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 200m 0
.backanno
.end
